US05886181
(S)-1-(Trifluoroacetyl)piperazine-2-carboxylic acid tert-butylamide
A mixture of 50.5 g (430 mmol) of 32% hydrochloric acid and 50 ml of water was added to 32.0 g (103 mmol) of (S)-4-formyl-1-(trifluoroacetyl) piperazine-2-carboxylic acid tert-butylamide in 200 ml of acetone and the resulting mixture was heated at 60° to 65° C. for 2.5 hours. After cooling to 20° C., neutralization was carried out with triethylamine in such a way that the temperature remained below 30° C. The solvent was evaporated off, and 100 ml of water and 200 ml of methyl isobutyl ketone were added. At 50° C. the phases were separated and the aqueous phase was re-extracted with twice 100 ml of methyl isobutyl ketone. The combined organic extracts were dried over magnesium sulfate and evaporated to dryness to give 23.5 g (80%) of the title compound in the form of a slightly reddish solid. Recrystallization from toluene/diisopropyl ether gave the title compound in the form of a white crystalline powder. The melting point of the title compound was: 143.5° to 144.2° C. Other data concerning the title compound was:

reactant | hydrochloric acid | 430 mmol, 50.5 g | Cl | ClH
reactant | water | 50 ml | O | H2O
reactant | (S)-4-formyl-1-(trifluoroacetyl) piperazine-2-carboxylic acid tert-butylamide | 103 mmol, 32.0 g | C(C)(C)(C)NC(=O)[C@H]1N(CCN(C1)C=O)C(C(F)(F)F)=O | C12H18F3N3O3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (S)-1-(Trifluoroacetyl)piperazine-2-carboxylic acid tert-butylamide | 23.5 g, 80% | C(C)(C)(C)NC(=O)[C@H]1N(CCNC1)C(C(F)(F)F)=O | C11H18F3N3O2
